US07314936B2
A solution of OsO4 (7.8 mL, 0.1 M in water, 0.03 eq.) was added to a mixture of allyl-ethyl-phenyl-amine (4.10 g, 25.3 mmol) and NMO (5.92 g, 2.0 eq.) in 9:1 acetone-water (40 mL) at room temperature and the resulting mixture was stirred overnight. The mixture was diluted with sat. NaHCO3 (80 mL), sat Na2S2O3 (20 mL) and 1:1 Et2O-hexanes (100 mL). The separated aqueous phase was extracted with 2×30 mL of EtOAc and the combined organic phase was dried over Na2SO4, filtered and concentrated and the product was purified by chromatography (30% EtOAc-hexanes) to give 3-(ethyl-phenyl-amino)-propane-1,2-diol (4.25 g, 86%). Methanesulfonyl chloride (2.5 mL, 1.5 eq.) was added to a solution 3-(ethyl-phenyl-amino)-propane-1,2-diol (4.22 g, 21.6 mmol) and triethylamine (9.03 mL, 3.0 eq.) in dichloromethane (20 mL) at −30 to −35° C. and the resulting mixture was stirred and warmed to 0° C. The reaction was quenched by sat. NaHCO3 (30 mL) and the separated aqueous phase was extracted with 2×20 mL CH2Cl2 and 20 mL EtOAc. The combined extracts were dried over Na2SO4, filtered and concentrated. The residue was dissolved in MeOH (30 mL) and treated with NaOMe (2.3 g, 2.0 eq.) at 65-70° C. for 3 h. After cooling to room temperature, the mixture was diluted with sat. NaHCO3 (50 mL) and extracted with 3×30 mL of EtOAc. The combined extracts were dried over Na2SO4, filtered and concentrated and the product was purified by chromatography (10% EtOAc/hexanes) to give ethyl-oxiranylmethyl-phenyl-amine (1.72 g, 45%).

reactant | Methanesulfonyl chloride | 2.5 mL, 1.5 eq. | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(ethyl-phenyl-amino)-propane-1,2-diol | 21.6 mmol, 4.22 g | C(C)N(CC(CO)O)C1=CC=CC=C1 | C11H17NO2
reactant | triethylamine | 9.03 mL, 3.0 eq. | C(C)N(CC)CC | C6H15N
reactant | NaOMe | 2.3 g, 2.0 eq. | C[O-].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | ethyl-oxiranylmethyl-phenyl-amine | 1.72 g, 45% | C(C)N(C1=CC=CC=C1)CC1OC1 | C11H15NO
